US04055651
To a stirred solution of 2.2 g of ethyl 2-piperidinecarboxylate and 4.1 ml of triethylamine in 50 ml of chloroform, which was cooled in an ice-salt bath, was added in portions N2 -(6-methoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride obtained above. The reaction mixture was stirred overnight at room temperature. At the end of this period, 500 ml of chloroform was added and the chloroform solution was washed twice with 50 ml of saturated sodium chloride solution, dried over Na2SO4 and evaporated in vacuo. The oily residue was washed with ether to give 2.9 g of powdery ethyl 1-[N2 -(6-methoxy-2-naphthalenesulfonyl)-L-arginyl]-2-piperidinecarboxylate.

reactant | ethyl 2-piperidinecarboxylate | 2.2 g | N1C(CCCC1)C(=O)OCC | C8H15NO2
reactant | triethylamine | 4.1 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (6-methoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-[N2 -(6-methoxy-2-naphthalenesulfonyl)-L-arginyl]-2-piperidinecarboxylate | 2.9 g | COC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CCCC1)C(=O)OCC | C25H35N5O6S
